US04011319
Following the procedure of Example 13 and employing 42.0 g. of 57% dispersion of sodium hydride in mineral oil, 200 g. (1.0 mol) of trimethylsulfonium iodide and 70.4 g. (0.50 mol) of o-chlorobenzaldehyde there is obtained o-chlorostyrene oxide.

reactant | sodium hydride | [H-].[Na+]
reactant | trimethylsulfonium iodide | 1.0 mol | [I-].C[S+](C)C
reactant | o-chlorostyrene oxide | ClC1=C(C2CO2)C=CC=C1 | C8H7ClO
product | o-chlorobenzaldehyde | 0.50 mol | ClC1=C(C=O)C=CC=C1 | C7H5ClO
